US06498169B1
Synthesis of N-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl]phthalimide
To a solution of 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine (881 mg) in chloroform (10 mL) was added potassium phthalimide (556 mg). The mixture was stirred at room temperature overnight and water was added. After separating the organic layer, the aqueous layer was extracted with chloroform. Organic layers were combined, dried over anhydrous magnesium sulfate and evaporated to give the title compound as white powder.

reactant | 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine | 881 mg | ClCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
reactant | potassium phthalimide | 556 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | O | H2O
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl]phthalimide | COC=1C=C(C=C(C1OC)OC)C1=NC=CC(=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C23H20N2O5
